US07741327B2
A solution of 3-(2-fluoro-5-methyl-phenoxy)-but-2-enoic acid ethyl ester (1.11 g, 4.65 mmol) in dichloromethane (18.9 mL) was treated with N-bromosuccinimide (0.87 g, 4.89 mmol) and benzoyl peroxide (90 mg, 0.37 mmol). The reaction was then heated to 75° C. overnight. At this time, the reaction was cooled to 25° C. and then concentrated in vacuo. Purification by Analogix flash chromatography (40 g, 2% ethyl acetate/hexanes) afforded (E)-4-bromo-3-(2-fluoro-5-methyl-phenoxy)-but-2-enoic acid ethyl ester (1.31 g, 89%) as a light yellow oil: HR-ES-MS m/z calculated for C13H14O3FBr [M+H]+ 317.0183, observed 317.0182; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.15 (t, J=7.2 Hz, 3H), 2.31 (s, 3H), 4.07 (q, J=7.2 Hz, 2H), 4.78 (s, 2H), 4.81 (s, 1H), 7.11 (dd, J=7.8, 1.8 Hz, 1H), 7.14-7.22 (m, 1H), 7.33 (dd, J=10.6, 8.5 Hz, 1H): and (Z)-4-bromo-3-(2-fluoro-5-methyl-phenoxy)-but-2-enoic acid ethyl ester (0.13 g, 9%) as a golden yellow oil: HR-ES-MS m/z calculated for C13H14O3FBr [M+H]+ 317.0183, observed 317.0182; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.09 (t, J=7.1 Hz, 3H), 2.26 (s, 3H), 3.97 (q, J=7.1 Hz, 2H), 4.29 (s, 2H), 5.98 (s, 1H), 6.97 (m, 2H), 7.20 (dd, J=10.7, 8.9 Hz, 1H).

reactant | 3-(2-fluoro-5-methyl-phenoxy)-but-2-enoic acid ethyl ester | 4.65 mmol, 1.11 g | C(C)OC(C=C(C)OC1=C(C=CC(=C1)C)F)=O | C13H15FO3
reactant | N-bromosuccinimide | 4.89 mmol, 0.87 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 18.9 mL | ClCCl | CH2Cl2
catalyst | benzoyl peroxide | 0.37 mmol, 90 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | (E)-4-bromo-3-(2-fluoro-5-methyl-phenoxy)-but-2-enoic acid ethyl ester | 1.31 g, 89% | C(C)OC(\C=C(/CBr)\OC1=C(C=CC(=C1)C)F)=O | C13H14BrFO3
